US07847092B2
356 mg (1.0 mmol) of 2-(3-toluenesulfonyloxypropoxy)naphthalene and 456 mg (3.0 mmol) of cesium fluoride are added to 4.0 mL of t-amyl alcohol in a reaction vessel. The reaction mixture is stirred for 2 hrs at 90° C. 7 mL of ethyl ether is added to remove metal salt. After filtration, the filtrate is concentrated by a reduced pressure distiller. 190 mg (93% yield) of 2-(3-fluoropropoxy)naphthalene is obtained by column chromatography (ethyl acetate:n-hexane=1:20).

reactant | 2-(3-toluenesulfonyloxypropoxy)naphthalene | 1.0 mmol, 356 mg | C=1(C(=CC=CC1)S(=O)(=O)OCCCOC1=CC2=CC=CC=C2C=C1)C | C20H20O4S
reactant | cesium fluoride | 3.0 mmol, 456 mg | [F-].[Cs+]
reactant | t-amyl alcohol | 4.0 mL | C(C)(C)(CC)O | C5H12O
reactant | ethyl ether | 7 mL | C(C)OCC | C4H10O
solvent | n-hexane | CCCCCC | C6H14
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(3-fluoropropoxy)naphthalene | 190 mg, 93% yield | FCCCOC1=CC2=CC=CC=C2C=C1 | C13H13FO
